US05491144
4,5-Bis(4-methoxyanilino)phthalimide
Analogously to Example 1, 393 mg (0.9 mmol) of 4,5-bis(4-methoxyanilino)phthalic acid dimethyl ester in 25 ml of ethyleneglycol are heated at 120°, ammonia gas being passed through the mixture, with stirring, for 18 hours. The reaction mixture is cooled, saturated with sodium chloride and extracted with ethyl acetate. The ethylacetate phases are washed in succession three times with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The evaporation residue is chromatographed onsilica gel with ethyl acetate/hexane 1:1 and the product fractions are combined and concentrated by evaporation, yielding the title compound in the form of yellow crystals, m.p. 191°-193° C., FAB-MS: 390 [M+ +H].

reactant | 4,5-bis(4-methoxyanilino)phthalic acid dimethyl ester | 0.9 mmol, 393 mg | COC(C=1C(C(=O)OC)=CC(=C(C1)NC1=CC=C(C=C1)OC)NC1=CC=C(C=C1)OC)=O | C24H24N2O6
reactant | ammonia | N | H3N
reactant | sodium chloride | [Cl-].[Na+]
solvent | ethyleneglycol | 25 ml | C(CO)O | C2H6O2
product | 4,5-Bis(4-methoxyanilino)phthalimide | COC1=CC=C(NC=2C=C3C(C(=O)NC3=O)=CC2NC2=CC=C(C=C2)OC)C=C1 | C22H19N3O4
